US06835732B2
3,4-Dimethoxy-benzoic acid 2-{[4-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-benzyl]-methyl-amino}-ethyl ester
Conversion of 4-cloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide (84 mg, 0.20 mmol) with 3,4-dimethoxybenzoic acid 2-methylamino-ethyl ester chlorohydrate (96 mg, 0.4 mmol) and N-ethyl diisopropylamine (0.14 ml, 0.80 mmol) using the general procedure C affords the product as light yellow solid in 57% yield. MS: m/e=621 (M+H+).

reactant | 4-cloromethyl-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 0.20 mmol, 84 mg | ClCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C20H20ClN3O3S
reactant | 3,4-dimethoxybenzoic acid 2-methylamino-ethyl ester | CNCCOC(C1=CC(=C(C=C1)OC)OC)=O | C12H17NO4
reactant | N-ethyl diisopropylamine | 0.80 mmol, 0.14 ml | C(C)N(C(C)C)C(C)C | C8H19N
product | 3,4-Dimethoxy-benzoic acid 2-{[4-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-ylcarbamoyl)-benzyl]-methyl-amino}-ethyl ester | 57% yield | COC1=CC=C(C2=C1N=C(S2)NC(=O)C2=CC=C(CN(CCOC(C1=CC(=C(C=C1)OC)OC)=O)C)C=C2)N2CCOCC2 | C32H36N4O7S
